US06583135B2
Preparation of 2-(1,1-Dimethyl-2-propenyl)-1H-indole-3-ethanamine
To a solution of 2-[2-[2-(1,1-dimethyl-2-propenyl)-1H-indol-3-yl]ethyl]-1H-isoindole-1,3(2H)-dione (1.10 g, 3.07 mmol) in 3:1 MeOH/CH2Cl2 (20 mL) at rt under argon was added N2H4.H2O (0.52 mL). The reaction mixture was stirred overnight, concentrated in vacuo, diluted with CHCl3, then extracted with H2O. The CHCl3 layer was separated. The H2O layer was extracted further with CHCl3. The combined CHCl3 extracts were washed, dried, filtered, and concentrated to give the title compound: MS (ESI+) m/z 229.2.

reactant | 2-[2-[2-(1,1-dimethyl-2-propenyl)-1H-indol-3-yl]ethyl]-1H-isoindole-1,3(2H)-dione | 3.07 mmol, 1.10 g | CC(C=C)(C)C=1NC2=CC=CC=C2C1CCN1C(C2=CC=CC=C2C1=O)=O | C23H22N2O2
solvent | MeOH CH2Cl2 | 20 mL | CO.C(Cl)Cl
product | 2-(1,1-Dimethyl-2-propenyl)-1H-indole-3-ethanamine | CC(C=C)(C)C=1NC2=CC=CC=C2C1CCN | C15H20N2
